data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(OC)c1.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(OC)c1"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(OC)c1", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(OC)c1.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(OC)c1", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(OC)c1"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(OC)c1", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(OC)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(OC)c1.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(OC)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(OC)c1", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(OC)c1"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(OC)c1", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(OC)c1"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(OC)c1", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(OC)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1Cl", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1Cl"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(Cl)c1", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(F)c(F)c1)C1C2CCC1C2", "products": "[O][C](c1ccc(F)c(F)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(F)c(F)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(F)c(F)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(F)c(F)c1", "products": "OC(=CC1C=CCC1)c1ccc(F)c(F)c1"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(F)c(F)c1", "products": "O=C(CC1C=CCC1)c1ccc(F)c(F)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CC)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1F)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "COC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "COC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "COC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "COC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "COC1[C@H](CCl)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(OC)[C@H](CCl)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OC)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "COC1[C@H](CCl)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)c(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(F)c1)C(C)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1F"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)cc1F", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1F"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])cc1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1F"}, {"reactants": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])cc1F", "products": "Cc1ccc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)cc1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1OC", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1OC"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1OC", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)c(OC)c1", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1OC"}]}
